simulator lang=spectre
global 0

ahdl_include "./dut/offset_servo_top.va"
ahdl_include "./dut/offset_sampler.va"
ahdl_include "./dut/trim_dac.va"
ahdl_include "./dut/error_integrator.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=4.5n width=2.25n delay=0.9n rise=60p fall=60p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.6n 0.9 1.7n 0 44n 0 44.1n 0.9 48n 0.9 48.1n 0 90n 0]
Vcal (cal_en 0) vsource type=pwl wave=[0 0 5n 0 5.1n 0.9 58n 0.9 58.1n 0 66n 0 66.1n 0.9 90n 0.9]
Vvinp (vinp 0) vsource type=pwl wave=[0 0.452 7n 0.452 18n 0.468 33n 0.432 51n 0.446 72n 0.463 90n 0.463]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.448 7n 0.448 18n 0.432 33n 0.468 51n 0.454 72n 0.437 90n 0.437]

XDUT (vinp vinn clk rst cal_en corrected_out trim_4 trim_3 trim_2 trim_1 trim_0 error_metric done) offset_servo_top


tran tran stop=90n maxstep=80p
save vinp vinn clk rst cal_en corrected_out trim_4 trim_3 trim_2 trim_1 trim_0 error_metric done
